US03946062
Example 6 -- Preparation of N-methyl-N-(2-chlorocyclooctylthio)-N'-(3,4-dichlorophenyl) urea
An 11.0-g (0.1 mol) sample of cyclooctane was added dropwise at 0°C. to a solution of 0.1 mol N-chlorothio-N-methyl-N'-(3,4-dichlorophenyl) urea, prepared by a procedure similar to that of Example 3, in methylene dichloride. After the addition was completed, the reaction mixture was washed successively with water, aqueous sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated to give a solid residue. The solid was recrystallized from isopropyl alcohol and washed with hexane to give 15 g of product, m.p. 90°-91°C. Elemental analysis for C16H21Cl3N2OS showed: %S, calc. 8.1, found 8.2; %Cl, calc. 26.9, found 27.4.

reactant | cyclooctane | C1CCCCCCC1 | C8H16
reactant | N-chlorothio-N-methyl-N'-(3,4-dichlorophenyl) urea | 0.1 mol | ClSN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)C | C8H7Cl3N2OS
reactant | methylene dichloride | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(2-chlorocyclooctylthio)-N'-(3,4-dichlorophenyl) urea | 15 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)SC1C(CCCCCC1)Cl | C16H21Cl3N2OS
